US04431576
Using the procedure of Example 17, 3.9 g of (1R,cis) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylic acid and 3.5 g of methyl N,N'-diisopropylcarbamimidate were reacted to obtain 1.2 g of methyl (1R,cis) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+43°±2.5° (c=0.5% in ethanol).

reactant | (1R,cis) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylic acid | 3.9 g | CC1([C@@H]([C@@H]1/C=C\1/C(OCC1)=O)C(=O)O)C | C11H14O4
reactant | methyl N,N'-diisopropylcarbamimidate | 3.5 g | C(C)(C)NC(OC)=NC(C)C | C8H18N2O
solvent | ethanol | C(C)O | C2H6O
product | methyl (1R,cis) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylate | 1.2 g | CC1([C@@H]([C@@H]1/C=C\1/C(OCC1)=O)C(=O)OC)C | C12H16O4
